US04394515
β-Dimethylaminoethyl-10,11-Dihydro-11-oxodibenzo[b,f]thiepin-3-carboxylate
Dissolve 1.0 gm. of 3-chlorocarbonyl-10,11- dihydro-11-oxodibenzo[b,f]thiepin as prepared in Example 31, Step 1, in 10 cc. of anhydrous tetrahydrofuran with stirring and add 2 ml. of N,N-dimethylethanolamine. Stir at room temperature for 18 hours and strip the mixture to dryness. Partition the residue between ether and dilute hydrochloric acid and separate the aqueous layer. Basify the aqueous layer with aqueous ammonia and extract with ethyl acetate. Evaporate the organic phase and chromatograph the residue over silica-gel eluting with 90% chloroform in methanol to obtain the title product.

reactant | 3-chlorocarbonyl-10,11- dihydro-11-oxodibenzo[b,f]thiepin | ClC(=O)C=1C=CC2=C(SC3=C(CC2=O)C=CC=C3)C1 | C15H9ClO2S
reactant | N,N-dimethylethanolamine | CN(CCO)C | C4H11NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | β-Dimethylaminoethyl-10,11-Dihydro-11-oxodibenzo[b,f]thiepin-3-carboxylate | CN(CCOC(=O)C=1C=CC2=C(SC3=C(CC2=O)C=CC=C3)C1)C | C19H19NO3S
